US08809580B2
2,2,3,4,4-Pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butyric acid (3)
80 mL of acetic acid, 0.32 g sodium nitrite, TEMPO (0.24 g), CH3CO2Na (1.13 g) and 8 g of 2,2,3,4,4-pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butan-1-ol were placed in a 200 mL glass flask equipped with a balloon containing molecular oxygen, a reflux condenser and a stirrer. The balloon was opened such that a gentle flow of oxygen was generated. The mixture was stirred for 16 hr at 60° C. upon which the mixture was acidified to pH 1 to 2 and extracted with diethyl ether (three times). The combined organic phases were washed with water and dried over magnesium sulphate. The solvent was removed at a rotary evaporator and the residue was distilled to give 5.89 g of acid (1.6 mmHg, 65° C.). Yield: 71%.

reactant | sodium nitrite | 0.32 g | N(=O)[O-].[Na+]
reactant | TEMPO | 0.24 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | CH3CO2Na | 1.13 g | CC(=O)O[Na]
reactant | 2,2,3,4,4-pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butan-1-ol | 8 g | FC(CO)(C(C(OC(C(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C8H4F14O3
reactant | oxygen | O=O | O2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 2,2,3,4,4-Pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butyric acid | 5.89 g, Yield: 71% | FC(C(=O)O)(C(C(OC(C(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C8H2F14O4
